US07312330B2
C. N-(4-tert-Butylphenyl)-7-benzyl-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine
The title compound was prepared using the general procedure set forth in Example 2, above, using 7-benzyl-4-chloro-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidine (0.583 g, 1.92 mmol), 4-tert-butylbenzenamine (0.33 mL, 2.11 mmol) and acetonitrile (3 mL) to give 0.524 g (66%) of the title compound as an off-white powder.

reactant | 7-benzyl-4-chloro-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidine | 1.92 mmol, 0.583 g | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)COC | C16H18ClN3O
reactant | 4-tert-butylbenzenamine | 2.11 mmol, 0.33 mL | C(C)(C)(C)C1=CC=C(C=C1)N | C10H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-(4-tert-Butylphenyl)-7-benzyl-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine | 0.524 g, 66% | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)COC)CN(CC2)CC2=CC=CC=C2 | C26H32N4O
